US05856504
In a 300 ml four-necked flask equipped with a stirrer, a thermometer, and a condenser, 100 g of monochlorobenzene was placed in advance, to which 33.4 g (0.2 mol) of 2-(methylthio)benzaldehyde oxime was added under nitrogen atmosphere. 25.2 g (0.21 mol) Of thionyl chloride was added dropwise thereto while stirring at a temperature of from -10° to -15° C. and allowed to react for 1 hour at the same temperature. After the termination of the reaction, the reaction mixture was heated to room temperature and subjected to distilling off of the solvent and then to distillation under reduced pressure to give 26.2 g of 1,2-benzisothiazole (boiling point: 115° to 116° C./15 mm Hg, melting point: 39° to 40° C.). The yield was 97% to the 2-(methylthio)benzaldehyde oxime.

reactant | 2-(methylthio)benzaldehyde oxime | 0.2 mol, 33.4 g | CSC1=C(C=NO)C=CC=C1 | C8H9NOS
reactant | thionyl chloride | 0.21 mol, 25.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | monochlorobenzene | 100 g | ClC1=CC=CC=C1 | C6H5Cl
product | 1,2-benzisothiazole | 26.2 g, yield was 97% | S1N=CC2=C1C=CC=C2 | C7H5NS
